US07888349B2
A mixture of tert-butyl 3-[(3-nitro[1,5]naphthyridin-4-yl)amino]propylcarbamate (20.0 g, 57.6 mmol), 5% platinum on carbon, and ethyl acetate was hydrogenated on a Parr apparatus for two hours at 30 psi (2.1×105 Pa). The mixture was filtered through CELlTE filter agent, which was rinsed afterwards with ethyl acetate (150 mL). The filtrate was concentrated to afford tert-butyl 3-[(3-amino[1,5]naphthyridin-4-yl)amino]propylcarbamate as a yellow foam, all of which was used in the next step.

reactant | tert-butyl 3-[(3-nitro[1,5]naphthyridin-4-yl)amino]propylcarbamate | 57.6 mmol, 20.0 g | [N+](=O)([O-])C=1C=NC2=CC=CN=C2C1NCCCNC(OC(C)(C)C)=O | C16H21N5O4
catalyst | platinum on carbon | [Pt] | Pt
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-[(3-amino[1,5]naphthyridin-4-yl)amino]propylcarbamate | NC=1C=NC2=CC=CN=C2C1NCCCNC(OC(C)(C)C)=O | C16H23N5O2
